US06794383B2
Ethyl 2-(4-oxo-3,4-dihydro-2H-1,3-benzothiazin-2-ylidene)acetate (Compound 4)
Methyl thiosalicylate (6 g, 35.7 mM) and ethyl cyanoacetate (4 g, 35.4 mM) were dissolved in toluene (10 ml), and then triethylamine (5 ml, 35.8 mM) was added thereto. After heating under reflux for 7 hours, the reaction solution was concentrated. Ethanol was added to the residues and kept still, and the precipitated crystals were collected by filtration to give crude crystals. The product was recrystallized from ethanol to give the title compound as needle crystals (5.4 g, 60.7%).

reactant | Methyl thiosalicylate | 35.7 mM, 6 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl cyanoacetate | 35.4 mM, 4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | triethylamine | 35.8 mM, 5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-oxo-3,4-dihydro-2H-1,3-benzothiazin-2-ylidene)acetate | O=C1NC(SC2=C1C=CC=C2)=CC(=O)OCC | C12H11NO3S
